US05498800
A flat bottomed vial was charged with a mixture of 1-chloro-1-(4-isobutylphenyl)ethane (500 mg; 2.54 mmol), 250 mg (11 mmol) of sodium spheres in 5 mL of dry dimethylformamide. The vial was immersed in an ultrasound cleaner filled with water, and sonicated at room temperature for 2 hours. The reaction mixture was carefully treated with 30 mL of water and extracted with ether (3×30 mL). The ether extract was washed with water (3 ×15 mL) and dried over anhydrous MgSO4. It was filtered and stripped off the solvent to obtain 382 mg (94% yield) of pure 4-isobutylstyrene.

reactant | 1-chloro-1-(4-isobutylphenyl)ethane | 2.54 mmol, 500 mg | ClC(C)C1=CC=C(C=C1)CC(C)C | C12H17Cl
reactant | sodium | 11 mmol, 250 mg | [Na] | Na
reactant | water | O | H2O
reactant | water | 30 mL | O | H2O
solvent | dimethylformamide | 5 mL | CN(C=O)C | C3H7NO
product | 4-isobutylstyrene | 382 mg, 94% yield | C(C(C)C)C1=CC=C(C=C)C=C1 | C12H16
